US09359338B2
Step 1: Synthesis of tert-butyl 3-[[3-[[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]phenyl]carbamoylamino]-5-(t rifluoromethyl)phenoxy]methyl]azetidine-1-carboxylate
Dissolve N-[4-(4-aminophenoxy)-2-pyridyl]cyclopropanecarboxamide (200 mg, 0.74 mmol) and tert-butyl 3-[[3-(phenoxycarbonylamino)-5-(trifluoromethyl)phenoxy]methyl]-azetidine-1-carboxylate (415 mg, 0.89 mmol) in THF (10 mL), add DIEA (200 mg, 1.48 mmol), stir under N2 at 70° C. for 12 hrs. Concentrate under reduced pressure to give the crude product. Purification by chromatography (silica gel, EtOAc:PE=2:1) affords the title compound (250 mg, 52.4%). MS: (M+1): 642.3.

reactant | N-[4-(4-aminophenoxy)-2-pyridyl]cyclopropanecarboxamide | 0.74 mmol, 200 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)C2CC2)C=C1 | C15H15N3O2
reactant | tert-butyl 3-[[3-(phenoxycarbonylamino)-5-(trifluoromethyl)phenoxy]methyl]-azetidine-1-carboxylate | 0.89 mmol, 415 mg | O(C1=CC=CC=C1)C(=O)NC=1C=C(OCC2CN(C2)C(=O)OC(C)(C)C)C=C(C1)C(F)(F)F | C23H25F3N2O5
reactant | DIEA | 1.48 mmol, 200 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[[3-[[4-[[2-(cyclopropanecarbonylamino)-4-pyridyl]oxy]phenyl]carbamoylamino]-5-(t rifluoromethyl)phenoxy]methyl]azetidine-1-carboxylate | 250 mg, 52.4% | C1(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC=1C=C(OCC2CN(C2)C(=O)OC(C)(C)C)C=C(C1)C(F)(F)F | C32H34F3N5O6
